US04874792
(c) 2-(7-Bromoheptyl)benzaldehyde
To ethyl acetate (150 ml), cooled to 0° C., was added manganese oxide (15 g) followed by 2-(7-bromoheptyl) benzyl alcohol (3.39 g, 1.2 mmoles). The reaction mixture was permitted to warm to room temperature slowly, and stirred for 1 hour. The mixture was then cooled to 0° C. and stirred for 18 hours. Subsequently the mixture was filtered and evaporated to yield the desired product.

reactant | 2-(7-bromoheptyl) benzyl alcohol | 1.2 mmoles, 3.39 g | BrCCCCCCCC1=C(CO)C=CC=C1 | C14H21BrO
catalyst | manganese oxide | 15 g | [O-2].[Mn+2]
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-(7-Bromoheptyl)benzaldehyde | BrCCCCCCCC1=C(C=O)C=CC=C1 | C14H19BrO
